US05140011
A mixture of 500 mg (1.2 mmol) of t-butyl 4-(cyclohexylmethyl)-5-(4-hydroxy-2-isopropylbutyl)-2,2-dimethyl-3-oxazolidinecarboxylate in 3 ml of toluene, 191 mg (0.5 mmol) of tetrabutylammonium iodide, 5.9 g (150 mmol) of sodium hydroxide in water (8.8 ml) and 1.16 ml (9.8 mmol) of benzyl bromide is stirred at room temperature for 24 hours. Thereafter, water is added thereto, the mixture is extracted with ether, the ether extracts are dried over sodium sulphate and evaporated to dryness under reduced pressure. Chromatography of the residue on silica gel with a 1:8 mixture of ether and petroleum ether yields 457 mg (78.5%) of t-butyl (4S,5S)-5-[(S)-2-(benzyloxy)-2-isopropylbutyl]-4-(cyclohexylmethyl)-2,2-dimethyl-3-oxazolidinecarboxylate as a pale yellow resin, MS: 486 (M-CH3)+.

reactant | t-butyl 4-(cyclohexylmethyl)-5-(4-hydroxy-2-isopropylbutyl)-2,2-dimethyl-3-oxazolidinecarboxylate | 1.2 mmol, 500 mg | C1(CCCCC1)CC1N(C(OC1CC(CCO)C(C)C)(C)C)C(=O)OC(C)(C)C | C24H45NO4
reactant | sodium hydroxide | 150 mmol, 5.9 g | [OH-].[Na+]
reactant | benzyl bromide | 9.8 mmol, 1.16 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium iodide | 0.5 mmol, 191 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 8.8 ml | O | H2O
product | t-butyl (4S,5S)-5-[(S)-2-(benzyloxy)-2-isopropylbutyl]-4-(cyclohexylmethyl)-2,2-dimethyl-3-oxazolidinecarboxylate | 457 mg, 78.5% | C(C1=CC=CC=C1)O[C@](C[C@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC1CCCCC1)(CC)C(C)C | C31H51NO4
